US07741320B2
Step B: 7-chloro-4-cyclopropylmethyl-4H-1,2,4-benzothiadiazine 1,1-dioxide
To a solution of 7-chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide (1 g) in acetonitrile (40 mL) there is added potassium carbonate (2.5 g) and cyclopropylmethyl bromide (0.7 mL) and the mixture is heated at reflux for 24 hours. The reaction mixture is evaporated under reduced pressure and the residue is taken up in water (40 mL). The insoluble material is collected by filtration, washed with water and dried and is recrystallised from methanol.

reactant | 7-chloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 1 g | ClC1=CC2=C(NC=NS2(=O)=O)C=C1 | C7H5ClN2O2S
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropylmethyl bromide | 0.7 mL | C1(CC1)CBr | C4H7Br
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 7-chloro-4-cyclopropylmethyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(N(C=NS2(=O)=O)CC2CC2)C=C1 | C11H11ClN2O2S
